US05190934
A solution of 0.64 g of ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(cyclopropylmethyl)phosphinate in 10 ml of anhydrous dichloromethane under an inert atmosphere at room temperature is treated with 1.53 g of trimethylbromosilane. The pale yellow solution is stirred for 4 hours at room temperature and the volatile materials are removed under reduced pressure to give a pale yellow oil. This oil is redissolved in methanol containing 1% water and the clear pale yellow solution is stirred for 30 minutes at room temperature. The solvent is removed and the residue is dried in high vacuum at 50° C. for 24 hours to afford 3-amino-2-oxopropyl(cyclopropylmethyl)phosphinic acid hydrobromide salt as a yellow gum. This gum is dissolved in ethanol and treated with propylene oxide to afford, after filtration and drying 3-amino-2-oxo-propyl(cyclopropylmethyl)phosphinic acid as a pale yellow solid of m.p. 109°-110° C.; 1H-NMR (D2O): δ (ppm)=4.15 (2H, s, CH2N), 3.18 (2H, d, J=15 Hz, CH2P), 1.58 (2H, d, d, J=15+6 Hz, PCH2), 0.83 (1H, m, CH), 0.55 (2H, m, CH2), 0.17 (2H, m, CH2).

reactant | ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(cyclopropylmethyl)phosphinate | 0.64 g | C(C)(C)(C)OC(=O)NCC(CP(OCC)(=O)CC1CC1)=O | C14H26NO5P
reactant | trimethylbromosilane | 1.53 g | C[Si](Br)(C)C | C3H9BrSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-amino-2-oxopropyl(cyclopropylmethyl)phosphinic acid hydrobromide salt | Br.NCC(CP(O)(=O)CC1CC1)=O | InChI=1S/C7H14NO3P.BrH/c8-3-7(9)5-12(10,11)4-6-1-2-6;/h6H,1-5,8H2,(H,10,11);1H
